M4 (net33 net31 net15 VDD) pmos4
M3 (net33 net31 VDD VDD) pmos4
M2 (net31 net33 VDD VDD) pmos4
M1 (net31 net33 net15 VDD) pmos4
M0 (net15 VB1 VDD VDD) pmos4
C1 (net32 net30) capacitor
C0 (net33 net31) capacitor
L6 (net18 net32) inductor
L5 (net35 net30) inductor
L4 (net35 net18) inductor
L3 (net19 net37) inductor
? Missing component
L1 (net33 net19) inductor
M21 (net14 VB1 VSS VSS) nmos4
M20 (net32 net30 net14 VSS) nmos4
M19 (net30 net32 net14 VSS) nmos4
M18 (net32 net30 VSS VSS) nmos4
M17 (net30 net32 VSS VSS) nmos4
M16 (net24 VB2 VSS VSS) nmos4
M15 (net18 net19 net24 VSS) nmos4
M14 (net19 net18 net24 VSS) nmos4
M13 (net19 VB1 net18 VSS) nmos4
M12 (net6 VB2 VSS VSS) nmos4
M11 (net35 net37 net6 VSS) nmos4
M10 (net37 net35 net6 VSS) nmos4
M9 (net37 VB1 net35 VSS) nmos4
